US07872028B2
To a stirred solution of 3-(tetrahydro-pyran-4-yl)-propionaldehyde (8.59 g, 0.06 mol) and dibenzyl azodicarboxylate (12.8 g, 0.042 mol) in MeCN (250 mL) at 0° C. was added (R-proline) (0.48 g, 0.0042 mol). After stirring the mixture at 0° C. for 15 h, ethanol (100 mL) and NaBH4 (1.56 g, 0.042 mol) were added, and the mixture was stirred at 0° C. for 40 min. The reaction was quenched by slow addition of 10% aq citric acid (15 mL), and the whole solution was concentrated in vacuo. This residue was diluted with EtOAc (200 mL), washed with brine (50 mL), dried over Na2SO4, and concentrated in vacuo to give crude product which was purified by column chromatography to give (S)-dibenzyl 1-(1-hydroxy-3-(tetrahydro-2H-pyran-4-yl)propan-2-yl)hydrazine-1,2-dicarboxylate (16.52 g, 89%). 1H NMR (CD3OD) δ 1.0-1.5 (m, 8H), 2.9-3.3 (m, 2H), 3.4-3.6 (m, 2H), 3.7-3.9 (m, 2H), 4.4-4.7 (m, 2H), 5.1-5.4 (m, 4H), 7.2-7.4 (m, 10H).

reactant | 3-(tetrahydro-pyran-4-yl)-propionaldehyde | 0.06 mol, 8.59 g | O1CCC(CC1)CCC=O | C8H14O2
reactant | dibenzyl azodicarboxylate | 0.042 mol, 12.8 g | N(=NC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C16H14N2O4
reactant | R-proline | C1C[C@@H](NC1)C(=O)O | C5H9NO2
reactant | NaBH4 | 0.042 mol, 1.56 g | [BH4-].[Na+]
solvent | MeCN | 250 mL | CC#N | C2H3N
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | (S)-dibenzyl 1-(1-hydroxy-3-(tetrahydro-2H-pyran-4-yl)propan-2-yl)hydrazine-1,2-dicarboxylate | 16.52 g, 89% | OC[C@H](CC1CCOCC1)N(NC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C24H30N2O6
